US08084449B2
Process (A). A mixture of N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (50 mg, 0.077 mmol), 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate (24.23 mg, 0.077 mmol), Na2CO3 (24.44 mg, 0.236 mmol) and PdCl2(dppf) (5.62 mg, 7.69 μmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and was then heated in a Biotage microwave at normal absorption for 10 minutes at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain a crude residue. It was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were dried using a EZ2 GeneVac evaporator and then combined to give 1,1-dimethylethyl 4-{[5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-(methyloxy)-3-biphenylyl]methyl}-1-piperidinecarboxylate. It was re-dissolved in 25% TFA in DCM (2 mL) and stirred at room temperature for 2 h. Solvent was evaporated under a stream of nitrogen and then the residue was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 60% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with 1 N NaOH, and the basified solution extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-(methyloxy)-3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide as a solid (13 mg, 22.7%). LC-MS m/z 745 (M+H)+, 0.76 min (ret time); 1H NMR (400 MHz, DMSO-d6) δ 1.06-1.26 (m, 7H) 1.32 (t, J=7.28 Hz, 3H) 1.54-1.60 (m, 5H) 1.87-1.94 (m, 2H) 2.52-2.57 (m, 2H) 2.94-3.02 (m, 4H) 3.50-3.58 (m, 2H) 3.72 (s, 3H) 3.82-3.88 (m, 2H) 4.07-4.15 (m, 1H) 4.32 (q, J=7.28 Hz, 2H) 4.55 (d, J=6.02 Hz, 2H) 4.62 (d, J=6.27 Hz, 2H) 6.91 (d, J=7.78 Hz, 1H) 7.01-7.13 (m, 2H) 7.17-7.34 (m, 5H) 8.01 (s, 1H) 8.15-8.31 (m, 3H) 9.50 (t, J=6.27 Hz, 1H) 9.68 (t, J=6.27 Hz, 1H).

reactant | N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.077 mmol, 50 mg | BrC=1C=C(C=CC1OC)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H36BrN7O4
reactant | 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate | 0.077 mmol, 24.23 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H36BNO4
reactant | Na2CO3 | 0.236 mmol, 24.44 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 7.69 μmol, 5.62 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl 4-{[5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-(methyloxy)-3-biphenylyl]methyl}-1-piperidinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)OC)CC | C48H60N8O6
